US06340679B1
(c) (2S)-3-{4-[3-(1,4,5,6-Tetrahydropyrimidin-2-ylcarbamoyl)-propoxy]-phenyl}-2-(4-trifluoromethylbenzenesulfonylamino)-propionic acid
37.3 mg of (2S)-3-{4-[3-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-propoxy]-phenyl}-2-(4-trifluoromethylbenzenesulfonylamino)-propionic acid tert-butyl ester were dissolved in trifluoroacetic acid/water (95/5) and stirred for 2 hours. The solvent was removed in vacuo, and the residue was dissolved in acetic acid/water and lyophilized. Yield 27.6 mg. MS (ES+): m/e=557.1 (M+H)+.

reactant | (2S)-3-{4-[3-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-propoxy]-phenyl}-2-(4-trifluoromethylbenzenesulfonylamino)-propionic acid tert-butyl ester | 37.3 mg | C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)OCCCC(NC=1NCCCN1)=O)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)=O | C28H35F3N4O6S
solvent | trifluoroacetic acid water | FC(C(=O)O)(F)F.O
product | (2S)-3-{4-[3-(1,4,5,6-Tetrahydropyrimidin-2-ylcarbamoyl)-propoxy]-phenyl}-2-(4-trifluoromethylbenzenesulfonylamino)-propionic acid | N1C(=NCCC1)NC(=O)CCCOC1=CC=C(C=C1)C[C@@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C24H27F3N4O6S
